US07893056B2
[(2R)-3-(2-{2-Chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.7045 g, 1.272 mmol) was dissolved in acetic acid (8 mL) and water (2 mL). The reaction mixture was stirred overnight. The volatiles were evaporated, and the resulting residue was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide as a beige solid (0.2284 g, 38%). LCMS: (M+H)+=471.0.

reactant | [(2R)-3-(2-{2-Chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 1.272 mmol, 0.7045 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)NCC1=CSC=C1 | C24H32ClFN6O4S
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(3-thienylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 0.2284 g, 38% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)NCC1=CSC=C1 | C19H24ClFN6O3S
